US09388195B2
C) Production of methyl(3S,8aR)-2-benzyloctahydropyrrolo[1,2-a]pyrazine-3-carboxylate
To a suspension of 1-phenyl-N-[(2R)-pyrrolidin-2-ylmethyl]methanamine (13.6 g) in toluene (120 mL) were added triethylamine (22.9 mL) and methyl 2,3-dibromopropanoate (13.4 g) under ice-cooling, and the mixture was stirred with heating at 90° C. for 5 hr. The reaction mixture was allowed to cool to room temperature, and diluted with diethyl ether (200 mL) and brine (200 mL). The organic layer was dried over anhydrous magnesium sulfate, and the insoluble material was filtered off. The filtrate was concentrated under reduced pressure, and purified by silica gel column chromatography (ethyl acetate/hexane=10/80→50/50) to give the title compound (6.86 g) as a pale-yellow oil.

reactant | 1-phenyl-N-[(2R)-pyrrolidin-2-ylmethyl]methanamine | 13.6 g | C1(=CC=CC=C1)CNC[C@@H]1NCCC1 | C12H18N2
reactant | triethylamine | 22.9 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 2,3-dibromopropanoate | 13.4 g | BrC(C(=O)OC)CBr | C4H6Br2O2
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
solvent | diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | brine | 200 mL | [Cl-].[Na+].O
product | methyl(3S,8aR)-2-benzyloctahydropyrrolo[1,2-a]pyrazine-3-carboxylate | 6.86 g | C(C1=CC=CC=C1)N1C[C@@H]2N(C[C@H]1C(=O)OC)CCC2 | C16H22N2O2
